US04173649
B. 5-(Dimethylamino)-3-hydroxy-1-phenyl-1-pentene
5-(Dimethylamino)-1-phenyl-1-penten-3-one, hydrochloride (1:1) (18.6 g, 0.078 mole) is dissolved in 200 ml 1:1 methanol-water. Sodium bicarbonate (2.0 g) is added, followed by the portionwise addition of NaBH4 (3.0 g) at 35° C. After addition, the reaction mixture is stirred for 2 hours at room temperature. This solution is diluted with 200 ml of water and organics are extracted with ether. The ether is dried with MgSO4, filtered and concentrated in vacuo to yield 14.3 g of product. IR consistent.

reactant | 5-(Dimethylamino)-1-phenyl-1-penten-3-one, hydrochloride | 0.078 mole, 18.6 g | Cl.CN(CCC(C=CC1=CC=CC=C1)=O)C
reactant | Sodium bicarbonate | 2.0 g | C([O-])(O)=O.[Na+]
reactant | NaBH4 | 3.0 g | [BH4-].[Na+]
solvent | methanol water | CO.O
solvent | water | 200 ml | O | H2O
product | 5-(Dimethylamino)-3-hydroxy-1-phenyl-1-pentene | 14.3 g | CN(CCC(C=CC1=CC=CC=C1)O)C | C13H19NO
